US08247429B2
methyl 6-aminopyridine-2-carboxylate
A solution of 6-methylpyridin-2-amine (25 g, 231 mmol) and acetic anhydride (44 mL, 465 mmol) in tetrahydrofuran (188 mL) was heated under reflux for 12 hr. The solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate, and washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine. This was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. Water (350 mL) was added to the obtained crystals, and the mixture was heated to 75° C., and potassium permanganate (87.1 g, 551 mmol) was gradually added over 45 min. The mixture was stirred for 3 hr, and filtered through celite, and the filtrate was concentrated. Hydrochloric acid/methanol solution (Tokyo Chemical Industry Co., Ltd., 350 mL) was added, and the mixture was heated under reflux for 24 hr. The reaction solution was concentrated, diluted with ethyl acetate, and washed with saturated aqueous sodium hydrogen carbonate solution. The aqueous layer was extracted with ethyl acetate. The obtained organic layers were mixed, washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound (6.28 g, yield 18%).

reactant | 6-methylpyridin-2-amine | 231 mmol, 25 g | CC1=CC=CC(=N1)N | C6H8N2
reactant | acetic anhydride | 465 mmol, 44 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium permanganate | 551 mmol, 87.1 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | tetrahydrofuran | 188 mL | O1CCCC1 | C4H8O
product | methyl 6-aminopyridine-2-carboxylate | 6.28 g, yield 18% | NC1=CC=CC(=N1)C(=O)OC | C7H8N2O2
